US07015220B2
3-({4-[3-(3-Fluoro-pyrrolidin-1-yl)-propoxy]-phenylamino}-methylene)-1,3-dihydro-indol-2-one
In a manner similar to that described in Example 217, 3-{[4-(3-Iodo-propoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one and 3-fluoro-pyrrolidine hydrochloride (226 mg, 1.2 equiv.) (prepared by the method of Giardina, G et al, Synlett (1995), (1), 55–7) are converted to the named compound as a slightly brownish yellow solid (258 mg, 45%).

reactant | 3-{[4-(3-Iodo-propoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one | ICCCOC1=CC=C(C=C1)NC=C1C(NC2=CC=CC=C12)=O | C18H17IN2O2
reactant | 3-fluoro-pyrrolidine hydrochloride | 226 mg, 1.2 equiv. | Cl.FC1CNCC1
product | 3-({4-[3-(3-Fluoro-pyrrolidin-1-yl)-propoxy]-phenylamino}-methylene)-1,3-dihydro-indol-2-one | FC1CN(CC1)CCCOC1=CC=C(C=C1)NC=C1C(NC2=CC=CC=C12)=O | C22H24FN3O2
